US06399629B1
(B) 1-tert-Butoxycarbonyl-4-(N-tert-butoxycarbonylglycyl)piperazine-2-carboxylic acid
A solution of 1 N sodium hydroxide (728 mL) was added to a stirred solution of Methyl 1-tert-butoxycarbonyl-4-(N-tert-butoxycarbonylglycyl)piperazine-2-carboxylate (A, 195 mg) in methanol (3 mL). The mixture was stirred at room temperature for 23 hr and evaporated in vacuo. The residue was diluted with water and washed with ether. The aqueous layer was acidified with 1 N hydrochloric acid and extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and evaporated in vacuo to give the title compound (186 mg) as a colorless solid: 1H NMR (400 MHz, CD3OD) δ 1.44 (br s, 18H) and 2.70-4.80 (m, 9H).

reactant | sodium hydroxide | 1 N, 728 mL | [OH-].[Na+]
reactant | Methyl 1-tert-butoxycarbonyl-4-(N-tert-butoxycarbonylglycyl)piperazine-2-carboxylate | C(C)(C)(C)OC(=O)N1C(CN(CC1)C(CNC(=O)OC(C)(C)C)=O)C(=O)OC | C18H31N3O7
solvent | methanol | 3 mL | CO | CH4O
product | 1-tert-Butoxycarbonyl-4-(N-tert-butoxycarbonylglycyl)piperazine-2-carboxylic acid | 186 mg | C(C)(C)(C)OC(=O)N1C(CN(CC1)C(CNC(=O)OC(C)(C)C)=O)C(=O)O | C17H29N3O7
